US05677316
(5) 3-Aminomethyl-3-fluoromethylpyrrolidine
1-Benzyl-3-(dibenzylaminomethyl)-3-fluoromethylpyrrolidine (4.55 g) was dissolved in ethanol (40 ml), and 10% palladium-carbon (1 g) and hydrazine monohydrate (2.15 g) were added. The mixture was refluxed for 1 hour. After the completion of the reaction, the catalyst was removed, and the mixture was concentrated to give the object compound as an oil.

reactant | 1-Benzyl-3-(dibenzylaminomethyl)-3-fluoromethylpyrrolidine | 4.55 g | C(C1=CC=CC=C1)N1CC(CC1)(CF)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C27H31FN2
reactant | hydrazine monohydrate | 2.15 g | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 3-Aminomethyl-3-fluoromethylpyrrolidine | NCC1(CNCC1)CF | C6H13FN2
